* gnetlist -g spice-sdb -o crownstone.net crownstone.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from models/1N4007.mod vvvvvvvv
.MODEL 1N4007 D(IS=76.9p RS=42.0m BV=1.00k IBV=5.00u CJO=26.5p  M=0.333 N=1.45 TT=4.32u)
# http://www.acsu.buffalo.edu/~wie/applet/spice_pndiode/spice_diode_table.html
# and http://www.youspice.com/ys/diodefromdatasheet.3sp
*^^^^^^^^  End of included SPICE model from models/1N4007.mod ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
Rspice vac2 Vbb 1G  
C2 vac2 1 330n  
.INCLUDE crownstone.cmd
C3 dc 0 1000u  
Rload 0 dc 1k  
V1 vac1 vac2 sin(0 678.82 50)
.options TEMP=25
D4 1 dc 1N4007 
D2 Vbb dc 1N4007 
D3 0 1 1N4007 
D1 0 Vbb 1N4007 
C1 vac1 Vbb 330n  
.end
